US06498251B1
Synthesis Example 42d 2-(1-Benzyl-piperidin-4-yl)-1,2,3,4-tetrahydro-isoquinoline
1,2,3,4-Tetrahydroisoquinoline (700 mg, 5.3 mmol), acetic acid (3.2 g, 5.3 mmol), sodium triacetoxyborohydride (2.2 g, 11 mmol) and benzylpiperidone (1.0 g, 5.3 mmol) were stirred at room temperature for 3.5 hours in dichloroethane (7 ml). The reaction solution was alkalified by adding sodium hydroxide aqueous solution, the reaction product was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and then dried with anhydrous sodium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 900 mg (3.0 mmol, 56% in yield) of the title compound.

reactant | 1,2,3,4-Tetrahydroisoquinoline | 5.3 mmol, 700 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | acetic acid | 5.3 mmol, 3.2 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 11 mmol, 2.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzylpiperidone | 5.3 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloroethane | 7 ml | ClC(C)Cl | C2H4Cl2
product | 2-(1-Benzyl-piperidin-4-yl)-1,2,3,4-tetrahydro-isoquinoline | C(C1=CC=CC=C1)N1CCC(CC1)N1CC2=CC=CC=C2CC1 | C21H26N2
